US07470704B2
2. Benzoic acid (S)-2-({1-[4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-phenyl]-methanoyl}-isopropyl-amino)-propyl ester
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]-naphthyridin-6-yl)benzoic acid and benzoic acid (S)-2-isopropylamino-propyl ester as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydrobenzo[c][1,6]-naphthyridin-6-yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | benzoic acid (S)-2-isopropylamino-propyl ester | C(C)(C)N[C@H](COC(C1=CC=CC=C1)=O)C | C13H19NO2
product | Benzoic acid (S)-2-({1-[4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-phenyl]-methanoyl}-isopropyl-amino)-propyl ester | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C=C2)C(=O)N([C@H](COC(C2=CC=CC=C2)=O)C)C(C)C)C=C1OC | C36H43N3O5
